.include AND2IN.sub

.subckt And node_out3 node_out2 node_out1 node_out0 node_a3 node_a2 node_a1 node_a0 node_b3 node_b2 node_b1 node_b0 vdd gnd
    X1 node_out0 node_a0 node_b0 vdd gnd AND2IN
    X2 node_out1 node_a1 node_b1 vdd gnd AND2IN
    X3 node_out2 node_a2 node_b2 vdd gnd AND2IN
    X4 node_out3 node_a3 node_b3 vdd gnd AND2IN
.ends And
